US06555541B1
e) 3-[2-(3,4-Difluorophenylamino)acetylamino]-N-(2-dimethylaminoethyl)-2-methylbenzamide
A mixture of 3-[2-(3,4-difluorophenylamino)acetylamino]-2-methylbenzoic acid (0.2 g), N,N-dimethylethylenediamine (0.08 ml), bromotripyrrolidinophosphonium hexafluorophosphate (PyBroP®) (0.34 g), dimethylaminopyridine (0.07 g) and N,N-diisopropylethylamine (0.31 ml) in dimethylformamide (5 ml) was stirred at room temperature under N2 for 18 hours. The reaction mixture was partitioned between ethyl acetate and water and the organic phase was washed with water and brine, dried (MgSO4) and evaporated. The crude product was triturated with diethyl ether. The resultant solid was triturated with ethyl acetate and filtered. Yield 70 mg.

reactant | 3-[2-(3,4-difluorophenylamino)acetylamino]-2-methylbenzoic acid | 0.2 g | FC=1C=C(C=CC1F)NCC(=O)NC=1C(=C(C(=O)O)C=CC1)C | C16H14F2N2O3
reactant | N,N-dimethylethylenediamine | 0.08 ml | CN(CCN)C | C4H12N2
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 0.34 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | dimethylaminopyridine | 0.07 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | N,N-diisopropylethylamine | 0.31 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[2-(3,4-Difluorophenylamino)acetylamino]-N-(2-dimethylaminoethyl)-2-methylbenzamide | FC=1C=C(C=CC1F)NCC(=O)NC=1C(=C(C(=O)NCCN(C)C)C=CC1)C | C20H24F2N4O2
